US06635640B2
4-Methyl-5-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (pyridin-4-ylmethyl)-amide
A mixture of 4-piperidin-4-yl-1,3-dihydroindol-2-one (54 mg, 0.25 mmol), 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid (pyridin-4-ylmethyl)-amide (64 mg, 0.2625 mmol) and piperidine (2 drops) in ethanol (0.5 mL) was stirred at room temperature for 7 days. The precipitate which formed was collected by vacuum filtration, washed with ethanol and dried to give the title compound.

reactant | 4-piperidin-4-yl-1,3-dihydroindol-2-one | 0.25 mmol, 54 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid (pyridin-4-ylmethyl)-amide | 0.2625 mmol, 64 mg | N1=CC=C(C=C1)CNC(=O)C1=CNC(=C1C)C=O | C13H13N3O2
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 4-Methyl-5-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (pyridin-4-ylmethyl)-amide | N1=CC=C(C=C1)CNC(=O)C1=CNC(=C1C)C=C1C(NC2=CC=CC(=C12)C1CCNCC1)=O | C26H27N5O2
